data/oMe_Silver.jsonl
{"reaction_id": "NR-205_1-c1ccc(Cl)cc1","level": "easy","name": "Nierenstein reaction","reactants_smiles": ["C(=O)(Cl)(c1ccc(Cl)cc1)","C=[N+]=[N-]"],"products_smiles": ["C(=O)(CCl)(c1ccc(Cl)cc1)"],"conditions": "None","mechanism_step_nums": 2,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C([O-])(Cl)(C[N+]#N)(c1ccc(Cl)cc1)","step_weight": 0,"rationale": "The carbonyl carbon of the acyl chloride is highly electrophilic due to the electron-withdrawing chloride, enabling nucleophilic attack by diazomethane's terminal carbon, which is nucleophilic from resonance with the adjacent diazonium group."},{"step": 2,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=O)(CCl)(c1ccc(Cl)cc1)","step_weight": 0,"rationale": "The tetrahedral intermediate collapses as chloride, a good leaving group, departs, restoring the carbonyl and forming the α-chloromethyl ketone, favored by the stability of the carbonyl and relief of negative charge on oxygen."}],"description": "In the Nierenstein reaction, diazomethane attacks the electrophilic carbonyl carbon of an acyl chloride, forming a tetrahedral intermediate. Chloride elimination then yields the α-chloromethyl ketone, driven by the stability of the carbonyl and good leaving group ability of chloride."}
{"reaction_id": "NG-010_1-F_2-c2ccccc2_3-C3CC3","name": "Bamford-Stevens Reaction","level": "medium","reactants_smiles": ["C(=NNS(=O)(=O)c1ccc(C)cc1)(C(F)(c2ccccc2))(C3CC3)"],"products_smiles": ["C(=C(F)(c2ccccc2))C(C3CC3)"],"conditions": "Base","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=N[N-]S(=O)(=O)c1ccc(C)cc1)(C(F)(c2ccccc2))(C3CC3)","rationale": "Base abstracts a proton alpha to the hydrazone nitrogen, stabilized by resonance into the adjacent imine, making the nitrogen anion more nucleophilic and primed for tosylate elimination."},{"step": 2,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=[N+]=[N-])(C(F)(c2ccccc2))(C3CC3)","rationale": "The negatively charged nitrogen facilitates expulsion of the tosylate, a good leaving group due to resonance stabilization by the sulfonyl group, forming a diazo species."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[C](C(F)(c2ccccc2))(C3CC3)","rationale": "The diazo compound thermally or base-promotedly loses N₂ gas, a highly stable leaving group, generating an electron-deficient carbene intermediate."},{"step": 4,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "C(=C(F)(c2ccccc2))C(C3CC3)","rationale": "The carbene undergoes a 1,2-shift of F or c2ccccc2 to stabilize the electron-deficient center, forming the more thermodynamically stable alkene via rearrangement."}],"description": "Under basic conditions, the Bamford–Stevens reaction proceeds via deprotonation of the tosylhydrazone, generating an anion that eliminates the tosylate. This forms a diazo intermediate, which loses nitrogen to yield a carbene. A 1,2-shift then rearranges the carbene to the alkene product."}
